US07468378B2
Preparation of Intermediate 2-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-6-carboxylic acid
Intermediate 2-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-6-carboxylic acid tert-butyl ester (F-1a1, 9.0 g) was dissolved in 50 mL 4N HCl in dioxane and stirred at room temperature overnight. The solution was concentrated to provide compound F-1a2. The compound was used without further purification.

reactant | 2-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-6-carboxylic acid tert-butyl ester | 9.0 g | C(C)(C)(C)OC(=O)C=1C=C2C=CC(=NC2=CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C28H23F3N2O3
solvent | HCl | 4N, 50 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-6-carboxylic acid | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=NC2=CC=C(C=C2C=C1)C(=O)O)(F)F | C24H15F3N2O3
